US07173129B2
Ex-44A: A solution of 5-bromo-2,4-dimethoxybenzaldehyde (1.90 g, 7.77 mmol) and trans-dichlorobis(triphenylphosphine)palladium(II) in dioxane (150 mL) was treated with 1-methyl-2-(tributylstannyl)-1H-pyrrole and then refluxed for 68 h. The reaction mixture was quenched with 10% potassium fluoride/ether (300 mL/100 mL) and filtered through Celite. The organic phase was extracted with saturated ammonium chloride solution (4×25 mL), dried over magnesium sulfate, and concentrated to a brown solid. The solid was purified by column chromatography (30% ethyl acetate/hexane) to yield 0.87 g (46%) of 2,4-dimethoxy-5-(1-methyl-1H-pyrrol-2-yl)benzaldehyde as a white solid. 1H-NMR (300 MHz, CDCl3) δ 10.34 (s, 1 H), 7.78 (s, 1H), 6.72 (m, 1H), 6.51 (s, 1H), 6.20 (m, 1H), 6.13 (m, 1H), 4.01 (s, 3H), 3.92 (s, 3H), 3.46 (s, 3H).

reactant | 5-bromo-2,4-dimethoxybenzaldehyde | 7.77 mmol, 1.90 g | BrC=1C(=CC(=C(C=O)C1)OC)OC | C9H9BrO3
reactant | 1-methyl-2-(tributylstannyl)-1H-pyrrole | CN1C(=CC=C1)[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2,4-dimethoxy-5-(1-methyl-1H-pyrrol-2-yl)benzaldehyde | 0.87 g, 46% | COC1=C(C=O)C=C(C(=C1)OC)C=1N(C=CC1)C | C14H15NO3
